US06696473B2
B. Preparation of 2-[2′-(5-Acetyl-2-ethylaminophenylimino)-3′-benzyl-5-methyl-4′-oxo-4-phenyl-3′,4′-dihydro-2′H-[2,5′]bithiazolyliden-3-yl]ethyl Acetate
In a manner similar to that described in Example 52, intermediate 2-(5-methyl-4-phenyl-2-thioxothiazol-3-yl)ethyl acetate was alkylated with methyl p-toluenesulfonate and condensed with 2-(5-acetyl-2-ethylaminophenylimino)-3-benzylthiazolidin-4-one to yield the title compound. 1H-NMR (CDCl3): δ 7.63-7.67 (2H, m), 7.44-7.51 (5H, m), 7.28-7.37 (5H, m), 6.50 (1H, d), 5.19 (2H, s), 4.30 (1H, br t), 4.03 (4H, m), 3.06 (2H, m), 2.48 (3H, s), 2.05 (3H, s), 1.89 (3H, s), 1.05 (3H, t); MS(ESI): 627 (MH+).

reactant | 2-(5-methyl-4-phenyl-2-thioxothiazol-3-yl)ethyl acetate | C(C)(=O)OCCN1C(SC(=C1C1=CC=CC=C1)C)=S | C14H15NO2S2
reactant | methyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
reactant | 2-(5-acetyl-2-ethylaminophenylimino)-3-benzylthiazolidin-4-one | C(C)(=O)C=1C=CC(=C(C1)N=C1SCC(N1CC1=CC=CC=C1)=O)NCC | C20H21N3O2S
product | 2-[2′-(5-Acetyl-2-ethylaminophenylimino)-3′-benzyl-5-methyl-4′-oxo-4-phenyl-3′,4′-dihydro-2′H-[2,5′]bithiazolyliden-3-yl]ethyl Acetate | C(C)(=O)OCCN1C(SC(=C1C1=CC=CC=C1)C)=C1C(N(C(S1)=NC1=C(C=CC(=C1)C(C)=O)NCC)CC1=CC=CC=C1)=O | C34H34N4O4S2
